US07101892B2
3-Cyclopentylpiperidine
Platinum oxide (0.2 g, 0.82 mmol) was added as a slurry in ethanol to a solution of 3-cyclopentylpyridine (1 g, 6.8 mmol) in ethanol (15 ml) and concentrated hydrochloric acid (1 ml). The mixture was hydrogenated in a Parr apparatus at 50 psi for 18 hours then filtered through Celite. The filtrate was concentrated in vacuo and the residue partitioned between 10% aqueous sodium carbonate solution and ethyl acetate. The organic layer was dried (MgSO4) and concentrated in vacuo to give the title compound (0.87 g, 84%).

reactant | 3-cyclopentylpyridine | 6.8 mmol, 1 g | C1(CCCC1)C=1C=NC=CC1 | C10H13N
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 ml | Cl | ClH
catalyst | Platinum oxide | 0.82 mmol, 0.2 g | [Pt]=O
product | 3-Cyclopentylpiperidine | 0.87 g, 84% | C1(CCCC1)C1CNCCC1 | C10H19N
